US04728653
Phosphorus pentachloride (1.0 g) was added to a stirred solution of 6-acetamido-2-methoxy-8-methylquinoline (1.0 g) in toluene (50 cm3) and the mixture was stirred at 50° for 15 minutes. Acetyl hydrazine (1.35 g) was then added and the mixture was stirred for 3 hours at 60°. The toluene was removed in vacuo, the residue dissolved in ethanol, and aqueous ammonia solution (S.G. 0.88) (25 cm3) was added. Dichloromethane (100 cm3) was added and the organic phase was separated. The aqueous phase was further extracted with dichloromethane (2×25 cm3), and the combined organic phases were dried (MgSO4) and evaporated to give a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 19:1. Combination and evaporation of appropriate fractions afforded 6-[3,5-dimethyl-1,2,4-triazol-4-yl]-2-methoxy-8-methylquinoline (0.306 g), which was recrystallised from toluene to give microcrystals, m.p. 211°-213° (0.066 g).

reactant | Phosphorus pentachloride | 1.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6-acetamido-2-methoxy-8-methylquinoline | 1.0 g | C(C)(=O)NC=1C=C2C=CC(=NC2=C(C1)C)OC | C13H14N2O2
reactant | Acetyl hydrazine | 1.35 g | C(C)(=O)NN | C2H6N2O
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 6-[3,5-dimethyl-1,2,4-triazol-4-yl]-2-methoxy-8-methylquinoline | 0.306 g | CC1=NN=C(N1C=1C=C2C=CC(=NC2=C(C1)C)OC)C | C15H16N4O
